US07511067B2
a) methyl 2-benzyloxy-5-[2-[1,1-dimethyl-3-[1,2,4]triazol-1-yl-propylamino]-1-hydroxy-ethyl]-benzoate
9.5 g of methyl 2-benzyloxy-5-(2-ethoxy-2-hydroxy-acetyl)-benzoate and 3.1 g of 1,1-dimethyl-3-[1,2,4]triazol-1-yl-propylamine are reacted and worked up analogously to the method described for Example 2a. The crude product is dissolved in 100 mL 95% ethanol and combined with an ethanolic solution of 1.8 g of oxalic acid. After the addition of a crystallisation aid the precipitated product is separated off and washed. Yield: 8 g (64%, bisoxalate), m.p.=220-222° C.

reactant | methyl 2-benzyloxy-5-(2-ethoxy-2-hydroxy-acetyl)-benzoate | 9.5 g | C(C1=CC=CC=C1)OC1=C(C(=O)OC)C=C(C=C1)C(C(O)OCC)=O | C19H20O6
reactant | 1,1-dimethyl-3-[1,2,4]triazol-1-yl-propylamine | 3.1 g | CC(CCN1N=CN=C1)(C)N | C7H14N4
reactant | oxalic acid | 1.8 g | C(C(=O)O)(=O)O | C2H2O4
solvent | ethanol | 100 mL | C(C)O | C2H6O
product | methyl 2-benzyloxy-5-[2-[1,1-dimethyl-3-[1,2,4]triazol-1-yl-propylamino]-1-hydroxy-ethyl]-benzoate | C(C1=CC=CC=C1)OC1=C(C(=O)OC)C=C(C=C1)C(CNC(CCN1N=CN=C1)(C)C)O | C24H30N4O4
